US08217064B2
Ethyl 1-(6-amino-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclobutanecarboxylate (0.280 g, 0.64 mmol) was dissolved in a mixture of MeCN/H2O/HCl 10 mL/10 mL/4 mL at 0° C. A solution of NaNO2 (0.066 g, 0.96 mmol) in water (2 mL) was added drop wise at 0° C., and the reaction mixture was stirred for 40 min, at the same temperature. A solution of CuCl (0.32 g, 3.2 mmol) in water (2 mL) was added drop wise at 0° C. The reaction mixture was heated to 70° C. for 1 h and the solvent was evaporated under reduced pressure. The reaction mixture was extracted with EtOAc (3×50 mL), and the combined organic layers were washed with water (50 mL) followed by brine (50 mL). The solution was dried over Na2SO4, filtered and concentrated to give crude black oil which was purified by chromatography over silica gel (hexane/EtOAc) to give ethyl 1-(6-chloro-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclobutanecarboxylate (0.10 g) as yellow oil.

reactant | Ethyl 1-(6-amino-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclobutanecarboxylate | 0.64 mmol, 0.280 g | NC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C1(CCC1)C(=O)OCC)OCC1CC1 | C24H26F3NO3
reactant | NaNO2 | 0.96 mmol, 0.066 g | N(=O)[O-].[Na+]
reactant | MeCN H2O HCl | 10 mL | CC#N.O.Cl
solvent | water | 2 mL | O | H2O
solvent | water | 2 mL | O | H2O
catalyst | CuCl | 3.2 mmol, 0.32 g | Cl[Cu]
product | ethyl 1-(6-chloro-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclobutanecarboxylate | 0.10 g | ClC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C1(CCC1)C(=O)OCC)OCC1CC1 | C24H24ClF3O3
